US05558971
Using 2,2',4,4'-tetrahydroxybenzophenone (2.46 g, 10 mmole) and trifluoromethanesulfonic anhydride (13.3 g, 47 mmole), the reaction and the treatment were carried out in the same manner as described in Synthesis Example 12, the resultant crude yellow oil (7.7 g) was chromatographed on silica gel (Wakogel C-200) with n-hexane/methylene chloride [7/3 (v/v)] as eluent to give 2.1 g of 2,2',4,4'-tetra(trifluoromethanesulfonyloxy)benzophenone as pale yellow crystals. m.p. 94.0°-96.0° C.

reactant | 2,2',4,4'-tetrahydroxybenzophenone | 10 mmole, 2.46 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | trifluoromethanesulfonic anhydride | 47 mmole, 13.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2,2',4,4'-tetra(trifluoromethanesulfonyloxy)benzophenone | 2.1 g | FC(S(=O)(=O)OC1=C(C(=O)C2=C(C=C(C=C2)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=CC(=C1)OS(=O)(=O)C(F)(F)F)(F)F | C17H6F12O13S4
